US05057513
To a solution of 2'-phenylmethyl-4,5-dihydro-4-oxospiro[1,5-benzothiazepine-2(3H), 1'-cyclohexane] (5.0 g) in methylene chloride (150 ml) was added 80% m-chloroperbenzoic acid (3.9 g) at 0° C. After fifteen minutes, a saturated aqueous solution (150 ml) of sodium sulfite was added to the solution. The organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diisopropyl ether to give 2'-phenylmethyl-4,5-dihydro-4-oxospiro[1,5-benzothiazepine-2(3H), 1'-cyclohexane] 1-oxide

reactant | 2'-phenylmethyl-4,5-dihydro-4-oxospiro[1,5-benzothiazepine-2(3H), 1'-cyclohexane] | 5.0 g | C1(=CC=CC=C1)CC1C2(CCCC1)SC1=C(NC(C2)=O)C=CC=C1 | C21H23NOS
reactant | m-chloroperbenzoic acid | 3.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | 150 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 2'-phenylmethyl-4,5-dihydro-4-oxospiro[1,5-benzothiazepine-2(3H), 1'-cyclohexane] 1-oxide | C1(=CC=CC=C1)CC1C2(CCCC1)S(C1=C(NC(C2)=O)C=CC=C1)=O | C21H23NO2S
